US06696487B2
Phosphorus pentoxide (10 g) is added to a suspension of N′-(2,2-dimethylpropanoyl)-3-methyl-4-nitrobenzhydrazide (5.1 g) in toluene (200 ml). After refluxing for 2 h, the reaction mixture is poured into ice-water and extracted with diethyl ether. The organic phases are combined, dried over magnesium sulphate, evaporated and purified by chromatography on silica (eluent: 2/1 diethyl ether/petroleum ether) to give 2-(1,1-dimethylethyl)-5-(3-methyl-4-nitrophenyl)-1,3,4-oxadiazole.

reactant | Phosphorus pentoxide | 10 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | N′-(2,2-dimethylpropanoyl)-3-methyl-4-nitrobenzhydrazide | 5.1 g | CC(C(=O)NNC(C1=CC(=C(C=C1)[N+](=O)[O-])C)=O)(C)C | C13H17N3O4
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1,1-dimethylethyl)-5-(3-methyl-4-nitrophenyl)-1,3,4-oxadiazole | CC(C)(C)C=1OC(=NN1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C13H15N3O3
